US07429609B2
4-Methoxy-1H-indazole-5-carboxylic acid ethyl ester
2 g of 4-methoxy-1H-indazole-5-carboxylic acid was added to a mixed solvent of 40 mL ethanol/2.2 mL concentrated sulfuric acid, and stirred at 95° C. for 11 hours. After cooling the reaction solution on ice, water was slowly added under ice cooling, and the precipitated crystals were collected by filtration and washed with water. Thereafter, the crystals were dried under reduced pressure, to afford 1.52 g of the title compound as pale brown crude crystals.

reactant | 4-methoxy-1H-indazole-5-carboxylic acid | 2 g | COC1=C2C=NNC2=CC=C1C(=O)O | C9H8N2O3
reactant | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-Methoxy-1H-indazole-5-carboxylic acid ethyl ester | 1.52 g | C(C)OC(=O)C=1C(=C2C=NNC2=CC1)OC | C11H12N2O3
